US08957203B2
To a round-bottom flask equipped with a stir bar was added N-(tert-butyl)-1-(hydroxymethyl)cyclopropane-1-sulfonamide (8.66 g, 41.8 mmol) and CH2Cl2 (110 mL). The stirred solution was cooled to 0° C. and to the solution was added (diethylamino)sulfur trifluoride (11 mL, 84 mmol). The solution was allowed to warm to room temperature with stirring for 4 h. The solution was then slowly added to a stirred sat. aq. sodium bicarbonate (100 mL) and following the addition stirring was maintained for 18 h. The pH of the aqueous phase was adjusted to pH=4 using aq. HCl. The mixture was transferred to a separatory funnel and was twice extracted with CH2Cl2. The combined organics were washed with brine; dried over MgSO4; filtered; and then concentrated in vacuo to afford a brown solid residue. This material was subjected to SiO2 chromatography (hexanes:EtOAc, 90:10 to 40:60) to afford N-(tert-butyl)-1-(fluoromethyl)cyclopropane-1-sulfonamide as a colorless, crystalline solid (5.66 g, 65%). 1H NMR (400 MHz, CDCl3) δ 4.73 (s, 1H), 4.60 (s, 1H), 4.22 (br. s., 1H), 1.59-1.53 (m, 2H), 1.37 (s, 9H), 1.12-1.07 (m, 2H).

reactant | N-(tert-butyl)-1-(hydroxymethyl)cyclopropane-1-sulfonamide | 41.8 mmol, 8.66 g | C(C)(C)(C)NS(=O)(=O)C1(CC1)CO | C8H17NO3S
reactant | (diethylamino)sulfur trifluoride | 84 mmol, 11 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-butyl)-1-(fluoromethyl)cyclopropane-1-sulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)CF | C8H16FNO2S
